US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Chloro-2-(2-methoxy-4-morpholin-4-ylmethyl-phenylamino)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LXIX)
In a similar fashion as for the synthesis of Compound LXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide was reacted with 4-(4-isothiocyanato-3-methoxybenzyl)-morpholine to afford the title compound as a tan solid (11%). 1H NMR (d-6 DMSO): 10.0 (br m, 1H), 8.78 (m, 1H), 8.62 (m, 1H), 7.86 (m, 2H), 7.36 (m, 1H), 7.25 (m, 1H), 7.10 (m, 1H), 6.43 (m, 2H), 5.08 (m, 1H), 4.34 (m, 2H), 3.98 (s, 3H), 3.29 (m, 4H), 3.12 (m, 4H), 2.92 (s, 1H), 2.86 (s, 1H), 2.62 (m, 1H), 2.21 (m, 1H), 1.69 (m, 1H), 1.44 (m, 1H). MS: 524.02 (M+H). HPLC retention time: 1.74 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 4-(4-isothiocyanato-3-methoxybenzyl)-morpholine | N(=C=S)C1=C(C=C(CN2CCOCC2)C=C1)OC | C13H16N2O2S
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(2-methoxy-4-morpholin-4-ylmethyl-phenylamino)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 11% | ClC=1C(=C2C(=NC1)NC(=N2)NC2=C(C=C(C=C2)CN2CCOCC2)OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C26H30ClN7O3
